US07547680B2
2-{3-[2-(2-Hydroxy-1-hydroxymethyethylcarbamoyl)vinyl]-benzylamino}-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-[3-(2-Carboxyvinyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole (50 mg), 2-amino-1,3-propanediol (21 mg), 1-hydroxybenzotriazole (36 mg) and triethylamine (41 μL) were suspended in tetrahydrofuran (2 mL). To the mixture was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (45 mg), and the mixture was stirred for 17 hours. The solvent was removed under reduced pressure, and the obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=70/30-10/90) to give the title compound (52 mg)

reactant | 2-[3-(2-Carboxyvinyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 50 mg | C(=O)(O)C=CC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C22H23N3O6
reactant | 2-amino-1,3-propanediol | 21 mg | NC(CO)CO | C3H9NO2
reactant | 1-hydroxybenzotriazole | 36 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 45 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 41 μL | C(C)N(CC)CC | C6H15N
product | 2-{3-[2-(2-Hydroxy-1-hydroxymethyethylcarbamoyl)vinyl]-benzylamino}-1-(β-D-ribofuranosyl)-1H-benzimidazole | 52 mg | OCC(CO)NC(=O)C=CC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C25H30N4O7
